US09328112B2
tert-butyl 2-cyano-2-(4-oxocyclohexylidene)acetate
A solution of 1,4-dioxaspiro[4.5]decan-8-one (5 g, 32.0 mmol), tert-butyl 2-cyanoacetate (4.97 g, 35.2 mmol), ammonium acetate (0.2 g) and acetic acid (1.0 mL) in toluene (75 ml) was refluxed using Dean-Stark water separator to isolate water formed for 16 hours. After cooling, the reaction mixture was washed twice with water, dried over Na2SO4, filtered, and concentrated in vacuo. The crude material (4.18 g, 14.96 mmol) was treated with acetic acid (80% in water, 42.8 mL, 599 mmol) at 65° C. overnight. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography on Analogix IntelliFlash280 eluting with 5 to 100% ethyl acetate/hexanes to give the title compound. 1H NMR (501 MHz, CDCl3) δ 1.54 (s, 9H), 2.49-2.62 (m, 4H), 3.05-3.16 (m, 2H), 3.37 (t, J=7.0 Hz, 2H).

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 32.0 mmol, 5 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | tert-butyl 2-cyanoacetate | 35.2 mmol, 4.97 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | ammonium acetate | 0.2 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 599 mmol, 42.8 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | tert-butyl 2-cyano-2-(4-oxocyclohexylidene)acetate | C(#N)C(C(=O)OC(C)(C)C)=C1CCC(CC1)=O | C13H17NO3
